US04182769
4,5-Diphenyl-1-ethoxycarbonyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole
A mixture of 1.76 g (5 mmole) 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole, 1.1 g (10 mmole) of ethyl chloroformate in 10 ml pyridine was stirred at RT overnight. TLC showed some starting material, so another 0.6 g (5 mmole) of ethyl chloroformate was added and stirring was continued another 24 hours. The mixture was poured into water, neutralized with acetic acid and extracted three times with ether. The ether extracts were backwashed three times with water, then dried and concentrated. The last traces of pyridine were removed by pumping at 50° (0.5 mm). The residue was chromatographed on 150 g SilicAR CC-7, eluting with toluene to give, after recrystallization from hexane, 1.05 g (55%) of white product, mp 126.5°-127°.

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 5 mmole, 1.76 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC(C(F)F)(F)F | C17H12F4N2S
reactant | ethyl chloroformate | 10 mmole, 1.1 g | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 5 mmole, 0.6 g | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4,5-Diphenyl-1-ethoxycarbonyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)C(=O)OCC)SC(C(F)F)(F)F | C20H16F4N2O2S
